Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ man with history of Sarcoidosis, 
BCC, who presented to the emergency room earlier today with 
chief complaint of left lower abdominal pain. In the morning, he 
was evaluated at primary care clinic by Dr. ___ noted 
that he developed abdominal pain the night prior to admission. 
The pain began last night, described as sharp, ___, across the 
entire lower abdomen, with associated gas. He only took some 
water, but that it made it worse, and did not take anything else 
for the pain. He also had subjective fever and chills and was 
unable to eat. This morning he presented to ___, where he was 
evaluated. Today the pain is ___, and has improved compared to 
yesterday. He denies nausea, vomiting or diarrhea. His last 
bowel movement was yesterday evening. He denies any bloody or 
black stools. However, he describes the stools have changed in 
consistency over the previous weeks after changing to a new MVI. 

In clinic he was noted to have a temperature of 99.9; vital 
signs were otherwise stable. UA, per the office note, showed 
negative leuks, blood, gluc, with positive ketones. Due to 
concern about the magnitude of his pain and his decreased oral 
intake, he was referred to the emergency room for further 
evaluation.
.
In the ED, initial vital signs were T 99, HR 92, BP 116/73, RR 
18, satting 99%RA. Exam notable for guaiac negative. Labs showed 
a white count of 13.6 with 85% polys, no bands. Electrolytes 
were normal. Other labs notable for normal transaminases with 
tbili of 2.1 and lipase of 61. Patient underwent CT 
abdomen/pelvis that showed acute diverticulitis of the proximal 
descending colon without extraluminal gas or drainable fluid 
collection. Patient got IV ciprofloxacin and metronidazole, 
Tylenol, and IVF and was admitted for further treatment.
.
EVIEW OF SYSTEMS: Currently, he states that his pain is 
improved, ___. He denies any nausea or vomiting. He denies 
urinary symptoms.
 
Past Medical History:
Cutaneous sarcoidosis - not active
BCC ___
.
No history of abdominal surgery. He denies previous 
appendectomy, cholecystectomy or any other abdominal surgery
 
Social History:
___
Family History:
Father with a history of Lymphoma
No CAD, HTN, DM or other cancers in the family 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
Vitals: T 97.9, HR 85, BP 94/40, RR 16, sat 95%RA
General: middle-aged man, pleasant, lying on back comfortably, 
NAD
HEENT: MMM, sclera non-icteric
Neck: supple, no JVD
Heart: RRR, nl S1 S2, no m/r/g
Lungs: no use of accessory mm of breathing, CTAB 
Abdomen: +NABS, soft, non-distended, in LLQ and left flank, no 
rebound or guarding, negative ___ sign, no epigastric, RUQ, 
or RLQ pain,
Extremities: WWP, no ___, 2+ DP pulses bilaterally
Neuro: A&Ox3, CN II-XII grossly intact, moving all extremities
.
DISCHARGE PHYSICAL EXAMINATION:
Vitals: Tm 98.4  Tc 98.1  HR 73  HR range 73-85  BP 118/80  BP 
range  94/40-118/80  RR 16 O2 sat  98%RA
I's 24H po --  IV 829 O's urine NR  other --
    8H  po --  IV 573 O's urine --  other --
General: sleeping, awakens to voice, lying on back comfortably, 
NAD
HEENT: MMM, sclera non-icteric
Neck: supple, no JVD
Heart: RRR, nl S1 S2, no m/r/g
Lungs: no use of accessory mm of breathing, CTAB 
Abdomen: +NABS, soft, non-distended, non-tender to palpation, no 
rebound or guarding 
Extremities: WWP, no ___, 2+ DP pulses bilaterally
Neuro: A&Ox3, CN II-XII grossly intact, moving all extremities
 
Pertinent Results:
Admission Labs:
___ 10:30AM BLOOD WBC-13.6*# RBC-5.43 Hgb-15.4 Hct-44.4 
MCV-82 MCH-28.4 MCHC-34.7 RDW-13.3 Plt ___
___ 10:30AM BLOOD Neuts-85.3* Lymphs-9.6* Monos-4.2 Eos-0.3 
Baso-0.5
___ 10:30AM BLOOD Plt ___
___ 10:30AM BLOOD Glucose-114* UreaN-14 Creat-1.1 Na-141 
K-4.1 Cl-106 HCO3-29 AnGap-10
___ 10:30AM BLOOD ALT-14 AST-15 AlkPhos-56 TotBili-2.1* 
DirBili-0.4* IndBili-1.7
___ 10:30AM BLOOD Lipase-61*
.

Discharge Labs:
___ 05:18AM BLOOD WBC-11.8* RBC-4.78 Hgb-14.3 Hct-40.3 
MCV-84 MCH-30.0 MCHC-35.6* RDW-13.0 Plt ___
___ 05:18AM BLOOD Plt ___
___ 05:18AM BLOOD Glucose-99 UreaN-10 Creat-0.9 Na-141 
K-4.0 Cl-108 HCO3-25 AnGap-12
.

Studies: CT abd/pelvis ___
CT ABDOMEN: Imaged lungs demonstrate minimal bibasilar 
atelectasis. There is no pleural or pericardial effusion. 
  
The liver enhances homogeneously without focal lesion. There is 
no intra- or extra-hepatic biliary dilatation. The gallbladder, 
spleen, pancreas, adrenals and kidneys are unremarkable. There 
is no hydronephrosis bilaterally. There is no free air, free 
fluid or lymphadenopathy. 
  
CT PELVIS: There are diffuse diverticula throughout the 
descending and 
sigmoid colons. There is focal colonic wall thickening is seen 
in the 
proximal to mid descending colon with adjacent mesenteric fat 
stranding. No extraluminal gas or drainable fluid collection is 
seen. Adjacent prominent fluid filled loop of small bowel likely 
represents a mild focal ileus. No pathologically enlarged pelvic 
or inguinal lymph node is noted. 
  
The bladder, distal ureters are normal. The prostate is normal 
in size, with few calcifications within. The appendix is normal. 

  
Small fat containing left inguinal hernia is noted. 
IMPRESSION: 
Acute descending colon diverticulitis. No free air or drainable 
fluid 
collection. 

 
Brief Hospital Course:
ASSESSMENT AND PLAN: a ___ man presenting with left 
lower quadrant abdominal pain, decreased pos, CT scan suggestive 
of descending colon diverticulitis.
.
His presentation of left lower quadrant pain with low grade 
fevers and mild leukocytosis was consistent with a 
diverticulitis. A CT scan was alsco consistent with a descending 
colonic diverticulitis. He received one dose of Ciprofloxacin 
and Flagyl in the ED and was transferred to the medicine floors. 
He was continued on Cipro 500mg bid, and Metronidazole 500mg 
tid, to complete a 14 day course. He was treated with 
intravenous fluids and started on sips of fluid with advancing 
to clears as tolerated. His pain improved after fluids and 
tylenol for pain control; he required no morphine. His white 
count downtrended from 13 to 11 on the day of discharge. On the 
morning of discharge his pain had resolved, and he was 
tolerating the clear diet. His diet was advanced and he 
tolerated a regular diet on the afternoon of discharge. He was 
afebrile during this admission and was hemodynamically stable. 
He was instructed to complete a 14 day course of antibiotics. He 
was also instructed to adhere to a high-fiber diet, and avoid 
nuts and seeds. He was instructed to avoid athletics while 
taking Cipro, and avoid alcohol while taking flagyl.
He will schedule a follow-up appointment with Dr. ___ as an 
outpatient.
 
Medications on Admission:
Multivitamin
 
Discharge Medications:
1. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 13 days.
Disp:*26 Tablet(s)* Refills:*0*
2. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) for 13 days.
Disp:*39 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diverticulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during this admission. You 
were admitted with abdominal pain. You had a CT scan done that 
suggested you had diverticulitis. You were treated with fluids 
and antibiotics. You will continue a course of antibiotics when 
you leave the hospital.

Please start taking Ciprofloxacin 500mg by mouth twice daily for 
13 more days
Please start taking Metronidazole 500mg by mouth three times 
daily for 13 more days

** The Ciprofloxacin can predispose you to tendon rupture, so 
please avoid engaging in sports or athletic activities while you 
are taking this medication.
** The Metronidazole can be dangerous to take with alcohol. 
Please avoid alcohol while taking this medication.
 
Followup Instructions:
___